US08293758B2
2-(3-Fluorobenzyl)-N,N-dimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine (Example No. 6, a Diastereomer)
(±)-2-(3-fluorobenzyl)-4-dimethylamino-4-phenylcyclohexanone (325 mg, 1 mmol) together with tryptophol (161 mg, 1 mmol) was dissolved in dichloromethane (30 ml) and mixed with trifluoromethane sulphonic acid trimethylsilyl ester (0.22 ml, 1.14 mmol). The batch was stirred at RT for 2.5 h. A precipitate began to separate out after some time (approx. 1 h). For work up the reaction mixture was mixed with 2N NaOH (20 ml) and stirred for 20 min. During this the precipitate went into solution. The organic phase was separated and the aqueous phase extracted with dichloromethane (4×20 ml). The combined organic phases were dried with MgSO4. The solvent was then concentrated by evaporation in a vacuum. One of the possible diastereoisomers was isolated from the residue obtained (352 mg) by means of chromatographic purification [silica gel 60 G (10 g); ethyl acetate 150 ml].

reactant | (±)-2-(3-fluorobenzyl)-4-dimethylamino-4-phenylcyclohexanone | 1 mmol, 325 mg | FC=1C=C(CC2C(CCC(C2)(C2=CC=CC=C2)N(C)C)=O)C=CC1 | C21H24FNO
reactant | tryptophol | 1 mmol, 161 mg | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | trifluoromethane sulphonic acid trimethylsilyl ester | 1.14 mmol, 0.22 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(3-Fluorobenzyl)-N,N-dimethyl-4-phenyl-4′,9′-dihydro-3′H-spiro[cyclohexane-1,1′-pyrano[3,4-b]indole]-4-amine | FC=1C=C(CC2CC(CCC23OCCC2=C3NC3=CC=CC=C23)(N(C)C)C2=CC=CC=C2)C=CC1 | C31H33FN2O
